US08530461B2
(S)—N-{1-[4-(3-Hydroxy-azetidin-1-yl)-phenyl]ethyl}-acetamide
2.6 g (7.46 mmol) (S)—N-(1-{4-[3-(tert-Butyl-dimethyl-silanyloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide (IV.1) are added to 20 mL THF and the mixture is cooled to 5° C. 14.9 mL (14.9 mmol) tetrabutylammonium fluoride (1 N in THF) are added and the mixture is allowed to warm to rt. Stirring is continued for 1 h and the solvent is removed in vacuo. The residue is purified by column chromatography (silica gel; DCM:MeOH; gradient 9:1→8:2) to yield the desired product.

reactant | (S)—N-(1-{4-[3-(tert-Butyl-dimethyl-silanyloxy)-azetidin-1-yl]-phenyl}-ethyl)-acetamide | 7.46 mmol, 2.6 g | C(C)(C)(C)[Si](OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O)(C)C | C19H32N2O2Si
reactant | tetrabutylammonium fluoride | 14.9 mmol, 1 N, 14.9 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)—N-{1-[4-(3-Hydroxy-azetidin-1-yl)-phenyl]ethyl}-acetamide | OC1CN(C1)C1=CC=C(C=C1)[C@H](C)NC(C)=O | C13H18N2O2
